US09227985B2
2-Cyano-N-{(3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-yl}-N-methylacetamide
Triethylamine (8.2 μL, 0.059 mmol) and ethanol (1.0 mL) were added to a solution of (3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-N-methylpyrrolidin-3-amine (8.5 mg, 0.020 mmol) in methylene chloride (0.50 mL), followed by addition of 3-[(2,5-dioxopyrrolidin-1-yl)oxy]-3-oxopropanenitrile (7.2 mg, 0.039 mmol) and the mixture was stirred overnight at room temperature. The mixture was then diluted with methanol and purified by preparative LCMS using pH 10 buffer to give the title compound (1.4 mg, 14%). LCMS calc. for C27H28N7O3 (M+H)+: m/z=498.2. found: 498.3.

reactant | Triethylamine | 0.059 mmol, 8.2 μL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 1.0 mL | C(C)O | C2H6O
reactant | (3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-N-methylpyrrolidin-3-amine | 0.020 mmol, 8.5 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2C[C@@H](CC2)NC)C | C24H26N6O2
reactant | 3-[(2,5-dioxopyrrolidin-1-yl)oxy]-3-oxopropanenitrile | 0.039 mmol, 7.2 mg | O=C1N(C(CC1)=O)OC(CC#N)=O | C7H6N2O4
solvent | methylene chloride | 0.50 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-Cyano-N-{(3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-yl}-N-methylacetamide | 1.4 mg, 14% | C(#N)CC(=O)N(C)[C@H]1CN(CC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C27H27N7O3
